US09278981B2
Stage 243.2 3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide
The title compound was prepared in an analogous fashion to that described in Stage 1.2 using 3-bromo-4-fluorobenzoic acid and 4-(chlorodifluoromethoxy)aniline to afford an off-white solid. UPLC-MS (Condition 3) tR=1.25 min, m/z=394.0 [M+H]+, m/z=391.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.37 (d, J=9.17 Hz, 2H) 7.57 (t, J=8.68 Hz, 1H) 7.84-7.91 (m, 2H) 8.03 (ddd, J=8.62, 4.83, 2.32 Hz, 1H) 8.32 (dd, J=6.60, 2.20 Hz, 1H) 10.52 (s, 1H).

reactant | 3-bromo-4-fluorobenzoic acid | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | 4-(chlorodifluoromethoxy)aniline | ClC(OC1=CC=C(N)C=C1)(F)F | C7H6ClF2NO
product | 3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C=CC1F | C14H8BrClF3NO2
